US04623652
Methyl 3-[2-[2-Hydroxy-3-[N-[2-(methylpropionamido)ethyl]amino]propoxy]phenyl]propionate
A solution of 3.0 g (0.008 mole) of methyl 2-[2-hydroxy-3-[N-[2-(methylpropionamido)ethyl]amino]propoxy]cinnamate in 100 ml of methanol was treated with 0.3 g of 10% Pd-C catalyst and hydrogenated at 40 psi until no further uptake of hydrogen was observed (about 48 hr.). The catalyst was removed by filtration and the filtrate concentrated under reduced pressure to a solid, which was recrystallized from methanol:ether to provide 2.5 g (83%) of product, having a melting point of 119°-120° C. The IR and NMR spectra and elemental analysis were consistent with the assigned structure.

reactant | methyl 2-[2-hydroxy-3-[N-[2-(methylpropionamido)ethyl]amino]propoxy]cinnamate | 0.008 mole, 3.0 g | OC(COC1=C(C=CC(=O)OC)C=CC=C1)CNCCNC(CCC)=O | C19H28N2O5
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd-C | 0.3 g | [Pd] | Pd
product | Methyl 3-[2-[2-Hydroxy-3-[N-[2-(methylpropionamido)ethyl]amino]propoxy]phenyl]propionate | 2.5 g, 83% | OC(COC1=C(C=CC=C1)CCC(=O)OC)CNCCNC(CCC)=O | C19H30N2O5
